US08420642B2
2-Bromo-5-hydroxypyridine (1 mmol) is dissolved in DMF (2.5 ml) and NaH (1.4 eq., 60% suspension in liquid paraffin) is added. After 30 min 1-Bromo-2-methoxy-ethane (1.1 eq.) is added and the reaction solution is stirred 3 days. The reaction solution is pored into water and extracted with methyl-tert.-butyl ether. The combined organic layers are dried over MgSO4 and the solvent is removed in vacuo. 2-Bromo-5-(2-methoxyethoxy)-pyridine is obtained after column chromatography as colorless powder in a yield of 42%; HPLC (method C): 1.48 min; LC-MS (method A): 1.11 min, 231.95 (M+H+).

reactant | 2-Bromo-5-hydroxypyridine | 1 mmol | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | NaH | 1.4 eq. | [H-].[Na+]
reactant | 1-Bromo-2-methoxy-ethane | 1.1 eq. | BrCCOC | C3H7BrO
reactant | water | O | H2O
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 2-Bromo-5-(2-methoxyethoxy)-pyridine | yield of 42% | BrC1=NC=C(C=C1)OCCOC | C8H10BrNO2
